US05284828
Boc-L-Asp(OBzl)-OH (1.0 g), 2-aminopyridine (0.35 g), HOBT (0.50 g), WSCD (0.71 g) and DMF (20 ml) were reacted in a similar manner to that of Preparation 1-1) to give Boc-L-Asp(OBzl)-2-pyridylamide.

reactant | Boc-L-Asp(OBzl)-OH | 1.0 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C16H21NO6
reactant | 2-aminopyridine | 0.35 g | NC1=NC=CC=C1 | C5H6N2
reactant | HOBT | 0.50 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Boc-L-Asp(OBzl) 2-pyridylamide | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C.N1=C(C=CC=C1)[NH-] | InChI=1S/C16H21NO6.C5H5N2/c1-16(2,3)23-15(21)17-12(14(19)20)9-13(18)22-10-11-7-5-4-6-8-11;6-5-3-1-2-4-7-5/h4-8,12H,9-10H2,1-3H3,(H,17,21)(H,19,20);1-4H,(H-,6,7)/q;-1/t12-;/m0./s1
